US07985769B2
The coupling of the 3-Isopropylamino-5-phenyl-thiophene-2-carboxylic acid methyl ester (82 mg, 0.3 mmol) and the 3-Methyl-cyclopent-3-enecarboxylic acid (45 mg, 0.357 mmol) using PPh3 (95.4 mg, 0.363 mmol) and NCS (48.5 mg, 0.363 mmol) furnished the 3-[Isopropyl-(3-methyl-cyclopent-3-enecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester (70 mg, 61% yield) 1H NMR (CDCl3, 400 MHz 1:1 mixture of, rotamers), 7.68-7.64 (m, 4H), 7.5-7.4 (m, 6H), 7.1 (s, 1H), 7.09 (s, 1H), 5.2 (s, 1H), 5.1 (s, 1H), 5.06-4.98 (m, 2H), 3.88 (s, 3H), 3.87 (s, 3H), 3.08-3.0 (m, 2H), 2.85-2.76 (m, 2H), 2.5-2.42 (m, 2H), 2.3-2.1 (m, 4H), 1.69 (s, 3H), 1.64 (s, 3H), 1.24 (d, J=6.7 Hz, 3H), 1.23 (d, J=6.7 Hz, 3H), 1.01 (d, J=6.9 Hz, 3H), 1.007 (d, J=6.8 Hz, 3H).

reactant | 3-Isopropylamino-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.3 mmol, 82 mg | COC(=O)C=1SC(=CC1NC(C)C)C1=CC=CC=C1 | C15H17NO2S
reactant | 3-Methyl-cyclopent-3-enecarboxylic acid | 0.357 mmol, 45 mg | CC=1CC(CC1)C(=O)O | C7H10O2
reactant | PPh3 | 0.363 mmol, 95.4 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | NCS | 0.363 mmol, 48.5 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
product | 3-[Isopropyl-(3-methyl-cyclopent-3-enecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 70 mg, 61% yield | COC(=O)C=1SC(=CC1N(C(=O)C1CC(=CC1)C)C(C)C)C1=CC=CC=C1 | C22H25NO3S
